US06787536B2
4-[5-(3,4-Dichlorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester
Prepared according to the method for the preparation of 4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid teri-butyl ester, from 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester (1.00 g) and 3,4-dichlorobenzeneboronic acid (0.61 g), to yield the title compound as a white solid (0.93 g, 78%).

reactant | 4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid teri-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F | C19H23FN4O2
reactant | 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | 1.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)Br | C13H19BrN4O2
reactant | 3,4-dichlorobenzeneboronic acid | 0.61 g | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
product | 4-[5-(3,4-Dichlorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.93 g, 78% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC(=C(C=C1)Cl)Cl | C19H22Cl2N4O2
